US07713979B2
Trifluoro-methanesulfonic acid 4-{1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-3-yl methyl}-3,5-dichloro-phenyl ester
Using the method of Example 240 and using 1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one (Preparation 72) (0.204 g, 0.432 mmol), pyridine (5 mL), trifluoromethanesulfonic anhydride (0.146 g, 0.518 mmol) and 1 hour at room temperature gives the title compound. Purify the crude mixture over silica gel (5% ethyl acetate in hexane, KMnO4 stain) to yield 0.204 g (78%) of the title compound as a clear oil: mass spectrum (m/z): 606(M+1).

reactant | 1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | 0.432 mmol, 0.204 g | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O)(C)C | C23H35Cl2NO3Si
reactant | trifluoromethanesulfonic anhydride | 0.518 mmol, 0.146 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 4-{1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-3-yl methyl}-3,5-dichloro-phenyl ester | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)OS(=O)(=O)C(F)(F)F)Cl)=O)(C)C | C24H34Cl2F3NO5SSi
